US04166131
2-ethyl-2-methyl-5-indanacetic acid
2-ethyl-α-oxo-2-methyl-5-indanacetic acid methyl ester is reduced in a manner analogous to that described in Example 4. The cyclohexyl ammonium salt of the title compound has an M.P. of 149°-151°. The sodium salt of the title compound has an M.P. of 184°-188°.

reactant | 2-ethyl-α-oxo-2-methyl-5-indanacetic acid methyl ester | COC(C(C=1C=C2CC(CC2=CC1)(C)CC)=O)=O | C15H18O3
reactant | cyclohexyl ammonium | C1(CCCCC1)[NH3+]
product | 2-ethyl-2-methyl-5-indanacetic acid | C(C)C1(CC2=CC=C(C=C2C1)CC(=O)O)C | C14H18O2
